US08377968B2
A. Synthesis of N-((1-(cyanomethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide
N-(piperidin-4-ylmethyl)-3,5-bis(trifluoromethyl)benzamide (3.54 g, 10.0 mmol) was dissolved in CH3CN (100 mL). DIPEA (1.94 g, 15.0 mmol) and bromoacetonitrile (1.32 g, 11.0 mmol) were added. The reaction mixture was heated at 50° C. overnight. The solvent was removed in vacuo. Saturated NaHCO3 (40 mL) was added and the mixture was extracted with CH2Cl2 (4×30 mL). The combined organic solution was dried over anhydrous Na2SO4 and passed through a silica gel plug. The desired compound was eluted off with EtOAc. The product was further purified by crystallization from EtOAc/petroleum ether as a white solid (3.62 g, 92%).

reactant | N-(piperidin-4-ylmethyl)-3,5-bis(trifluoromethyl)benzamide | 10.0 mmol, 3.54 g | N1CCC(CC1)CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C15H16F6N2O
reactant | DIPEA | 15.0 mmol, 1.94 g | CCN(C(C)C)C(C)C | C8H19N
reactant | bromoacetonitrile | 11.0 mmol, 1.32 g | BrCC#N | C2H2BrN
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | N-((1-(cyanomethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide | C(#N)CN1CCC(CC1)CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C17H17F6N3O
